US06451810B1
Sodium hydride (402 mg, 11 mmol) was added to a suspension of 2-pyrrolidino-1H-benzimidazole (1.9 g, 10.1 mmol) in dry N,N-dimethylformamide (30 mL). All solids dissolved. The solution was allowed to stir at ambient temperature for 15 minutes following the cessation of foaming. The solution was cooled to 5° C. and a solid formed. Methyl 4-(bromomethyl)benzoate (2.1 g, 01 mol) was added to the suspension and all the solids dissolved. The solution was allowed to stir at ambient temperature and a solid formed. The mixture was stirred at ambient temperature overnight and then it was poured into cold water. A solid was isolated by filtration, washed with water and dried to provide 3.0 g of crude product as an off-white solid. This material was recrystallized from methanol to provide methyl 4-[(2-pyrrolidinyl-1H-benzimidazol-1yl)methyl]benzoate. Analysis: Calculated for C20H21N3O2: %C, 71.62; %H, 6.31; %N, 12.53; Found: %C, 71.44; %H, 6.41; %N, 12.50.

reactant | Sodium hydride | 11 mmol, 402 mg | [H-].[Na+]
reactant | 2-pyrrolidino-1H-benzimidazole | 10.1 mmol, 1.9 g | N1(CCCC1)C1=NC2=C(N1)C=CC=C2 | C11H13N3
reactant | Methyl 4-(bromomethyl)benzoate | 2.1 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | methyl 4-[(2-pyrrolidinyl-1H-benzimidazol-1yl)methyl]benzoate | N1(CCCC1)C1=NC2=C(N1CC1=CC=C(C(=O)OC)C=C1)C=CC=C2 | C20H21N3O2
